US07163937B2
Synthesis of (1R,2S,5R)-methyl 5-(isopropyl(methyl)amino)-2-((S)-2-oxo-3-(6-(trifluoromethyl)quinazolin-4-ylamino)pyrrolidin-1-yl)cyclohexanecarboxylate
A solution of (1R,2S,5R)-methyl 2-((S)-3-amino-2-oxopyrrolidin-1-yl)-5-(isopropyl(methyl)amino)-cyclohexanecarboxylate (50 mg, 0.16 mol), 4-chloro-6-(trifluoromethyl)quinazoline (48 mg, 0.20 mol) and Et3N (100 mg, 1.0 mol)in EtOH (2 ml) was added to a microwave reaction tube, sealed, and heated in a microwave oven at 100° C. for 60 minutes. The reaction mixture was concentrated in vacuo and the residue chromatographed on silica gel (3%–5% (NH4OH/MeOH)/CH2Cl2) to give 25 mg of the title product, (1R,2S,5R)-methyl 5-(isopropyl(methyl)amino)-2-((S)-2-oxo-3-(6-(trifluoromethyl)quinazolin-4-ylamino)pyrrolidin-1-yl)cyclohexanecarboxylate, as a white solid. MS found: (M+H)+=508.24.

reactant | (1R,2S,5R)-methyl 2-((S)-3-amino-2-oxopyrrolidin-1-yl)-5-(isopropyl(methyl)amino)-cyclohexanecarboxylate | 0.16 mol, 50 mg | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)N(C)C(C)C)C(=O)OC)=O | C16H29N3O3
reactant | 4-chloro-6-(trifluoromethyl)quinazoline | 0.20 mol, 48 mg | ClC1=NC=NC2=CC=C(C=C12)C(F)(F)F | C9H4ClF3N2
reactant | Et3N | 1.0 mol, 100 mg | CCN(CC)CC | C6H15N
solvent | EtOH | 2 ml | CCO | C2H6O
product | (1R,2S,5R)-methyl 5-(isopropyl(methyl)amino)-2-((S)-2-oxo-3-(6-(trifluoromethyl)quinazolin-4-ylamino)pyrrolidin-1-yl)cyclohexanecarboxylate | 25 mg | C(C)(C)N([C@@H]1CC[C@@H]([C@@H](C1)C(=O)OC)N1C([C@H](CC1)NC1=NC=NC2=CC=C(C=C12)C(F)(F)F)=O)C | C25H32F3N5O3
